US05977178
A solution of 4-(carboxymethoxy)piperidine-1-carboxylic acid tert-butyl ester (228 mg, 0.88 mmol), 1-hydroxy-7-azabenzotriazole (120 mg, 0.88 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (186 mg, 0.97 mmol) was stirred for 30 min at room temperature. N-Methyl-2-methylamino-N-(1-methylcarbamoyl-2-phenylethyl)-3-(naphthalen-2-yl)propionamide (355 mg, 0.88 mmol) in 5 ml of dichloromethane was added followed by diisopropylethylamine (0.2 ml, 1.14 mmol) and the mixture was stirred for 2 days at room temperature. The mixture was washed with water (5 ml) aqueous sodium bicarbonate (5 ml), water (2×5 ml), brine (5 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (30 g) with ethyl acetate as eluent to give 391 mg of 4-([N-methyl-N-{(1R)-1-(N-methyl-N-[(1R)-1-(methyl carbamoyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl}carbamoyl]methoxy]piperidin-1-carboxylic acid tert-butylester. The product was taken up in 50% trifluoromethane/dichloromethane and allowed to stand for 10 min. Then saturated sodium bicarbonate was added until pH was about 8 and the organic layer was separated. The aqueous phase was extracted with dichloromethane (2×10 ml) and the combined organic phases were washed with brine (5 ml), dried over magnesium sulfate and concentrated in vacuo. The crude product was chromatographed on silica (15 g) with dichloromethane:methanol (9:1) to give 327 mg of the title compound.

reactant | 4-(carboxymethoxy)piperidine-1-carboxylic acid tert-butyl ester | 0.88 mmol, 228 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(=O)O | C12H21NO5
reactant | 1-hydroxy-7-azabenzotriazole | 0.88 mmol, 120 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.97 mmol, 186 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-Methyl-2-methylamino-N-(1-methylcarbamoyl-2-phenylethyl)-3-(naphthalen-2-yl)propionamide | 0.88 mmol, 355 mg | CN(C(C(CC1=CC2=CC=CC=C2C=C1)NC)=O)C(CC1=CC=CC=C1)C(NC)=O | C25H29N3O2
reactant | diisopropylethylamine | 1.14 mmol, 0.2 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-([N-methyl-N-{(1R)-1-(N-methyl-N-[(1R)-1-(methyl carbamoyl)-2-phenylethyl]carbamoyl)-2-(2-naphthyl)ethyl}carbamoyl]methoxy]piperidin-1-carboxylic acid tert-butylester | 391 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OCC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC1=CC=CC=C1)C(NC)=O)C)=O)C)=O | C37H48N4O6
